* Z:\mnt\design.r\spice\examples\3474-1.asc
V1 IN 0 10
L1 N002 N003 10µ Rpar=2K
C1 N001 N002 .22µ
C2 N007 0 .01µ
R1 N005 0 80.6K
D1 0 N002 1N5818
C3 N003 0 2.2µ
D2 N008 0 LXHL-BW02
V2 N006 0 PULSE(0 1 0 1u 1u .25m .5m)
XU1 MP_01 N003 N008 IN N002 N001 N003 0 N005 IN N004 N007 N004 N006 LT3474-1
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 2m startup
.lib LT3474-1.sub
.backanno
.end
